US04638060
(B) N-(t-Butoxycarbonyl)-α-(1-hydroxycyclopentyl)-glycine, benzyl ester
A solution of diisopropylamine (3.77 ml, 23 mmole) in 40 ml of dry tetrahydrofuran under argon was chilled to -40° C. and treated with 13 ml of a 1.71 N n-butyllithium solution (21.5 mmoles). After stirring for 20 minutes, the mixture was cooled to -78° C. and treated with a solution of N-(t-butoxycarbonyl)glycine, benzyl ester (2.65 g, 10 mmole) in 10 ml of tetrahydrofuran. The mixture became darker yellow, but remained clear. After 0.5 hours at -78° C., 0.88 ml (11.5 mmoles) of dried (4 Å sieves) cyclopentanone was added and then after 15 minutes at -78° C., the mixture was warmed over 0.5 hours to -20° C., whereupon the solution darkened to a deep purple. The temperature was raised to 0° C. for 20 minutes, then 1.32 g (22 mmole) of acetic acid in 5 ml of tetrahydrofuran was added, whereupon the color was discharged, leaving a gelatinous precipitate. The mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with brine, dried (sodium sulfate) and evaporated to an oil which was chromatographed on 900 ml of LPS-1 in hexane:ethyl acetate, 3:1. Evaporation of product fractions and crystallization from hexane gave, in two crops, 1.68 g of product, melting point 68°-70° C. (Rf=0.77, silica, hexane:ethyl acetate, 3:1).

reactant | diisopropylamine | 23 mmole, 3.77 ml | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 21.5 mmoles, 1.71 N | C(CCC)[Li]
reactant | N-(t-butoxycarbonyl)glycine, benzyl ester | 10 mmole, 2.65 g | C(C)(C)(C)OC(=O)NCC(=O)OCC1=CC=CC=C1 | C14H19NO4
reactant | acetic acid | 22 mmole, 1.32 g | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | N-(t-Butoxycarbonyl)-α-(1-hydroxycyclopentyl)-glycine, benzyl ester | 1.68 g | C(C)(C)(C)OC(=O)NC(C(=O)OCC1=CC=CC=C1)C1(CCCC1)O | C19H27NO5
